US04161599
Preparation of 5-carboxy-4-hydroxy-6-nitroso-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine
To a magnetically stirred suspension of 20 g (0.1 mole) 5-carboxy-4-hydroxy-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine in 200 cc 3 N hydrochloric acid maintained at 10° C. is added dropwise a 10% aqueous sodium nitrite solution (200 cc; 2.9 equivalents) and the resulting mixture is stirred at room temperature for 3 hours. The reaction medium remains heterogeneous throughout this step and nitrous fumes are evolved. The resulting precipitate is filtered off, washed with water and dried in vacuo, to give beige crystals (paste melting from 100° C.) in a yield of 21.3 g (93%).

reactant | 5-carboxy-4-hydroxy-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | 0.1 mole, 20 g | C(=O)(O)C1C(C2=C(CN1)SC=C2)O | C8H9NO3S
reactant | sodium nitrite | 200 cc, 2.9 equivalents | N(=O)[O-].[Na+]
solvent | hydrochloric acid | 3 N, 200 cc | Cl | ClH
product | 5-carboxy-4-hydroxy-6-nitroso-4,5,6,7-tetrahydro-thieno[2,3-c]pyridine | C(=O)(O)C1C(C2=C(CN1N=O)SC=C2)O | C8H8N2O4S
